US06211215B1
In substantially the same manner as in Working Example 109, 1-[4-(4-hydroxyphenyl)butyl]imidazole was allowed to react with 4-chloromethyl-2-(5-methyl-2-thienyl)oxazole to give 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(5-methyl-2-thienyl)oxazole. The yield was 65%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 82-83° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 4-chloromethyl-2-(5-methyl-2-thienyl)oxazole | ClCC=1N=C(OC1)C=1SC(=CC1)C | C9H8ClNOS
product | 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(5-methyl-2-thienyl)oxazole | yield was 65% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(OC2)C=2SC(=CC2)C)C=C1 | C22H23N3O2S
